Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___.
 
Chief Complaint:
Chest Discomfort
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
EVENTS / HISTORY OF PRESENTING ILLNESS: The pt is a ___ F with 
PMH of Asthma admitted with complains of sub-scapular chest pain 
radiating to the back for the past week. Pain has been constant 
in nature, with cramping. No numbness/tingling in the arms and 
legs. Pt Pt reports her symptoms began two weeks ago after 
breaking into fever, did not take temp., and night sweats. She 
then developed diffuse muscles aches greatest over her breasts, 
chest wall and upper extremities b/l. Denies changes with 
position. States it is mildly worse with deep inspiration. She 
does report increased physical activity over the past two weeks 
with ___ cleaning. Denies pain at rest. She denies recent 
sick contacts. No travel history. Reports night sweats for past 
two weeks. The pt does relate significant EtOH history, drinking 
approx 1 glass of wine every other day, then on the weeks she 
drinks one bottle on ___, then ___ gladsses on ___. 
Reports remote cocaine history, clean for past ___ years. Pt 
reports history of asthma, no change is symptoms and no increase 
in albuterol usage, reports no change of symptoms with exertion, 
does have occassional dyspnea.  
.  
In the ED, Vitals T 98.4, HR 72, RR 18, BP 121/98, Sat 95% RA. 
She was given aspirin 325mg daily and motrin 600mg once. On 
arrival to the floor the patient is resting comfortably and in 
no acute distress.  
.

.  
.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, joint pains, cough, hemoptysis, black stools or 
red stools. She denies exertional buttock or calf pain. All of 
the other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope. 
 
Past Medical History:
HTN  
Obesity  
Endometriosis  
Asthma  
Stress Incontinence  
Cardiac Risk Factors: Hypertension  
 
Social History:
___
Family History:
There is a family history of father MI age ___.  

 
Physical Exam:
VS - T 98.8, HR 76, BP 134/62, O2 98%2L  
Gen: WDWN middle aged female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with flat JVP.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
TTP over left breast, substernal chest tenderness to palp, also 
tenderness over shoulders and triceps  
Abd: Soft, NT/ND. No HSM or tenderness. Abd aorta not enlarged 
by palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
.  
Pulses:  
Right: Carotid 2+ Femoral 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ 03:20PM   WBC-4.1# RBC-3.98* HGB-11.6* HCT-34.8* MCV-87 
MCH-29.2 MCHC-33.5 RDW-14.0
___ 03:20PM   NEUTS-19* BANDS-0 LYMPHS-66* MONOS-10 EOS-4 
BASOS-0 ATYPS-1* ___ MYELOS-0
___ 03:20PM   PLT SMR-NORMAL PLT COUNT-309
___ 03:20PM   ___ PTT-26.1 ___
___ 03:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:20PM   TSH-0.90
___ 03:20PM   ALT(SGPT)-33 AST(SGOT)-46* CK(CPK)-936* ALK 
PHOS-38* TOT BILI-0.2
___ 03:20PM BLOOD ALT-33 AST-46* CK(CPK)-936* AlkPhos-38* 
TotBili-0.2
___ 03:20PM BLOOD CK-MB-9 cTropnT-0.03*
___ 09:32PM BLOOD CK(CPK)-777*
___ 09:32PM BLOOD CK-MB-7 cTropnT-0.02*
___ 06:00AM BLOOD CK-MB-5 cTropnT-0.01
___ 06:00AM BLOOD CK(CPK)-609*
.
CXR ___
FINDINGS: Lung volumes are diminished. No consolidation or 
superimposed edema is evident. Mild tortuosity of the thoracic 
aorta is again demonstrated. The cardiac silhouette is within 
normal limits for size accounting for patient and technical 
factors. No effusion or pneumothorax is noted. The visualized 
osseous structures are unremarkable.

IMPRESSION: Low lung volumes, but otherwise, no superimposed 
acute process.
.
EKG demonstrated NSR, Nl axis and intervals, low voltage in AVF, 
TWF V5 and V6 with no significant change compared with prior 
dated ___.  

 
Brief Hospital Course:
Patient is a ___ F with PMH of Asthma admitted with complains 
of diffuse muscle aches including sub-scapular chest pain 
radiating to the back for the past week, found to have elevated 
CK to 936  
.  
#. Diffuse Musculoskeletal Pain - Pt presented with complaints 
of diffuse musculoskeletal pain, worse with movement and found 
to have elevated CK to 900s. In reviewing labs pt with 
chronically elevated CK of unclear etiology. Etiology may be 
recent overuse at home in the setting of deconditioning vs viral 
myositis. Pt had recent fever/chills prior to onset of muscle 
pain, could be consistent with infectious etiology. Pt may also 
have myositis related to EtOH use. She ruled out for myocardial 
ischemia with three sets of negative cardiac enzymes. She was 
discharged home with close outpatient follow up for further 
management. 
.  
#. Rhythm - NSR  
.  
#. Asthma - pt denies symptoms of dyspnea currently, no wheezing 
on exam. Continued on outpatient regimen of advair and albuterol 
 
.  
#. HTN - continue HCTZ  
.  
 
Medications on Admission:
CURRENT MEDICATIONS:  
Albuterol Sulfate - 0.083 % (0.83 mg/mL) Solution for  
Nebulization - 1 vial po every six (6) hours as needed for SOB  
Albuterol Sulfate - 90 mcg HFA Aerosol Inhaler - 2 puffs po 
every  
six (6) hours as needed for SOB  
Citalopram - 40 mg Tablet - 1 and ___ Tablet(s) by mouth once a  

day  
Fluticasone-Salmeterol [Advair Diskus] - 500 mcg-50 mcg/Dose 
Disk  
with Device - one puff disk twice a day  
Hydrochlorothiazide - 25 mg Tablet - 1 (One) Tablet(s) by mouth  

once a day  
Montelukast [Singulair] - 10 mg Tablet - 1 Tablet(s) by mouth  
once a day  
Medications - OTC  
Omeprazole Magnesium [Prilosec OTC] - 20 mg Tablet, Delayed  
Release (E.C.) - 1 Tablet(s) by mouth once a day  
 
Discharge Medications:
1. Albuterol Sulfate 2.5 mg/3 mL Solution for Nebulization Sig: 
One (1)  Inhalation Q6H (every 6 hours) as needed for 
wheeze/SOB.  
2. Albuterol 90 mcg/Actuation Aerosol Sig: One (1)  Inhalation 
every ___ hours as needed for shortness of breath or wheezing.  
3. Advair Diskus 500-50 mcg/Dose Disk with Device Sig: One (1)  
Inhalation once a day.  
4. Citalopram 40 mg Tablet Sig: 1.5 Tablets PO once a day.  
5. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
6. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
1. Myositis

 
Discharge Condition:
Afebrile, VSS, ambulating without assistance

 
Discharge Instructions:
You were admitted with diffuse muscle pain. You have undergone 
bloodwork that has demonstrated no evidence of damage to your 
heart as a cause of this pain. Your bloodwork did show an 
elevation of a muscle enyme called creatine kinase. You will 
follow up with Dr. ___ as an outpatient for continued workup.
.
Your medications have not changed. Please continue to take your 
medications as directed. 
.
Please return or call your primary care physician if you develop 
worsening musculoskeletal pain, or if you develop chest pain or 
shortness of breath. 
 
Followup Instructions:
___